US08802704B2
Step 2: 2-chloro-2′-(trifluoromethyl)biphenyl-4-carboxylic acid
A 5N aqueous solution of NaOH (4 mL, 20 mmol) was added into a solution of methyl 2-chloro-2′-(trifluoromethyl)biphenyl-4-carboxylate (1.07 g, 3.40 mmol) in MeOH (16 mL) and stirred at RT for 30 minutes. The reaction mixture was concentrated under vacuum. The residue was taken up with EtOAc and washed with a 1N aqueous solution of HCl (3×) and brine, and then dried (MgSO4) and concentrated under vacuum to give the title compound as a white powder (950 mg, 93%). HPLC (Method A) Rt 4.9 min (Purity: 99.4%). LC/MS (Method B): 299.1 (M−H)−. 1H NMR (DMSO-d6, 300 MHz) δ 13.48 (s, 1H), 8.03 (d, J=1.6 Hz, 1H), 7.94 (dd, J=7.9, 1.6 Hz, 1H), 7.89 (d, J=7.8 Hz, 1H), 7.78 (m, 1H), 7.69 (m, 1H), 7.49 (d, J=7.9 Hz, 1H), 7.41 (d, J=7.4 Hz, 1H).

reactant | NaOH | 20 mmol, 4 mL | [OH-].[Na+]
reactant | methyl 2-chloro-2′-(trifluoromethyl)biphenyl-4-carboxylate | 3.40 mmol, 1.07 g | ClC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C15H10ClF3O2
solvent | MeOH | 16 mL | CO | CH4O
product | 2-chloro-2′-(trifluoromethyl)biphenyl-4-carboxylic acid | 950 mg, 93% | ClC1=C(C=CC(=C1)C(=O)O)C1=C(C=CC=C1)C(F)(F)F | C14H8ClF3O2
